US06313162B1
(a) N-Hydroxy-2-hydroxy-4-iodobenzamide
23.3 g (84 mmol) of methyl 2-hydroxy-4-iodobenzoate and 360 ml of sodium hydroxide solution (1 N) are introduced into a three-necked flask under a stream of nitrogen. 8 g (113 mmol) of hydroxylamine hydrochloride are added and the mixture is stirred at room temperature for two hours. The reaction medium is adjusted to pH 7-8 with concentrated hydrochloric acid and the solid is filtered off. The solid is dissolved in ethyl acetate and washed with water, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue is triturated from heptane, filtered and dried. 17.6 g (71.5%) of the expected product are collected, with a melting point of 195-6° C.

reactant | methyl 2-hydroxy-4-iodobenzoate | 84 mmol, 23.3 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
reactant | hydroxylamine hydrochloride | 113 mmol, 8 g | Cl.NO
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1 N, 360 ml | [OH-].[Na+]
product | N-Hydroxy-2-hydroxy-4-iodobenzamide | ONC(C1=C(C=C(C=C1)I)O)=O | C7H6INO3
